US08497381B2
Step 5: 2-[6-Methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid
To 2-[6-methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid ethyl ester (0.05 g, 0.09 mmol) in MeOH (2 mL) was added lithium hydroxide (1N; 1 mL, 1.0 mmol), and the reaction was stirred at 65° C. for 3 hours. The crude material was purified by preparative HPLC to give the title compound. M+H is 514.

reactant | 2-[6-methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid ethyl ester | 0.09 mmol, 0.05 g | C(C)OC(C(C)C=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C30H30F3NO5
reactant | lithium hydroxide | 1.0 mmol, 1N, 1 mL | [OH-].[Li+]
solvent | MeOH | 2 mL | CO | CH4O
product | 2-[6-Methoxy-2′-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-propionic acid | COC1=CC=C(C=C1C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)C(C(=O)O)C | C28H26F3NO5
